US08138345B2
Preparation of [3-(9H-Fluoren-9-ylmethoxycarbonylamino)propyl]methylcarbamic Acid tert-Butyl Ester
To a stirred solution of N-(3-aminopropyl)-N-methylcarbamic acid tert-butyl ester (2.00 g, 10.6 mmol) and sodium carbonate (2.81 g, 26.6 mmol) in water (7 mL) at 0° C. was added a solution of 9-fluorenylmethyl chloroformate (2.75 g, 10.6 mmol) in 1,4-dioxane (5 mL). The resulting mixture was stirred at room temperature for 2 h and then poured into water (10 mL). This mixture was extracted with diethyl ether (2×50 mL) and the combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a clear oil. The oil was purified by silica gel flash chromatography (0-70% EtOAc in hexanes) to give the title compound (4.24 g, 77% yield) as a clear oil (product contained a minor impurity, but was used without further purification).

reactant | N-(3-aminopropyl)-N-methylcarbamic acid tert-butyl ester | 10.6 mmol, 2.00 g | C(C)(C)(C)OC(N(C)CCCN)=O | C9H20N2O2
reactant | sodium carbonate | 26.6 mmol, 2.81 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-fluorenylmethyl chloroformate | 10.6 mmol, 2.75 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | water | 7 mL | O | H2O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | [3-(9H-Fluoren-9-ylmethoxycarbonylamino)propyl]methylcarbamic Acid tert-Butyl Ester | 4.24 g, 77% yield | C(C)(C)(C)OC(N(C)CCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C24H30N2O4
